US08703953B2
Part F. N-(8-chloro-5H-chromeno[3,4-c]pyridin-4-yl)acetamide
To a stirred solution of 8-chloro-5H-chromeno[3,4-c]pyridin-4-amine (0.08 g, 0.344 mmol) in pyridine (5 mL) at 0° C. was added acetyl chloride (0.024 mL, 0.344 mmol) and the solution was stirred for 2 h. The volatile organics were removed under reduced pressure and the residue was diluted with water (5 mL). The reaction mixture was extracted with CH2Cl2 (2×15 mL). The combined organic extracts were washed with brine (1×10 mL), dried over sodium sulfate and concentrated under reduced pressure. The crude residue was taken to the next step without purification. LCMS (ESI) m/e 273 [(M)−, calcd for C14H10ClN2O2 273.1]; LC/MS retention time (Method C): tR=1.89 min.

reactant | 8-chloro-5H-chromeno[3,4-c]pyridin-4-amine | 0.344 mmol, 0.08 g | ClC=1C=CC2=C(C1)OCC1=C(N=CC=C12)N | C12H9ClN2O
reactant | acetyl chloride | 0.344 mmol, 0.024 mL | C(C)(=O)Cl | C2H3ClO
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | N-(8-chloro-5H-chromeno[3,4-c]pyridin-4-yl)acetamide | ClC=1C=CC2=C(C1)OCC1=C(N=CC=C12)NC(C)=O | C14H11ClN2O2
